US06248740B1
Production of ethyl 2-[6-[3-[4-(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-oxy)piperidino]propylamino]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate
1.69 g of 4-(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-oxy)-1-piperidinepropanamine and 645 mg of ethyl 2-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-2-methylpropionate were dissolved in 3 ml of 1-methyl-2-pyrrolidone, followed by stirring in an oil bath (170° C.) for 7 hours. After cooling, saturated aqueous sodium bicarbonate was added, followed by extraction with ethyl acetate; the extract was washed with water and saturated saline and dried with magnesium sulfate. The solution was concentrated under reduced pressure; the residue was subjected to silica gel column chromatography and eluted with ethyl acetate:methanol:triethylamine (50:5:1). The desired fraction was collected, concentrated, the residue was subjected to silica gel column chromatography again and eluted with dichloromethane:methanol:triethylamine (100:1:2). The desired fraction was collected and concentrated to yield 340 mg of the title compound.

reactant | 4-(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-oxy)-1-piperidinepropanamine | 1.69 g | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)OC3CCN(CC3)CCCN | C23H30N2O
reactant | ethyl 2-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-2-methylpropionate | 645 mg | ClC=1C=CC=2N(N1)C=C(N2)C(C(=O)OCC)(C)C | C12H14ClN3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1-methyl-2-pyrrolidone | 3 ml | CN1C(CCC1)=O | C5H9NO
product | ethyl 2-[6-[3-[4-(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-oxy)piperidino]propylamino]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate | 340 mg | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)OC3CCN(CC3)CCCNC=3C=CC=2N(N3)C=C(N2)C(C(=O)OCC)(C)C | C35H43N5O3
